US06320050B1
A solution of 3-cyclopentyl-2-(4-methylsulfanyl-phenyl)-propionic acid (200 mg, 0.76 mmol) and triphenylphosphine (198 mg, 0.76 mmol) in methylene chloride (2 mL) was cooled to 0° C. and then treated with N-bromosuccinimide (150 mg, 0.84 mmol) in small portions. After the complete addition of N-bromosuccinimide, the reaction mixture was allowed to warm to 25° C. over 30 min. The orange reaction mixture was then treated with 2-aminopyridine (151 mg, 1.60 mmol), and the resulting reaction mixture was stirred at 25° C. for 15 h. The reaction mixture was then concentrated in vacuo to remove methylene chloride. The remaining residue was partitioned between water and ethyl acetate. The organic layer was washed with a IN aqueous hydrochloric acid solution, washed with a saturated aqueous sodium bicarbonate solution, dried over magnesium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 3/1 hexanes/ethyl acetate) afforded 3-cyclopentyl-2-(4-methylsulfanyl-phenyl)-N-pyridin-2-yl-propionamide (83 mg, 32%) as a white solid: mp 127-128° C.; EI-HRMS m/e calcd for C20H24N2OS (M+) 340.1609, found 340.1611.

reactant | 3-cyclopentyl-2-(4-methylsulfanyl-phenyl)-propionic acid | 0.76 mmol, 200 mg | C1(CCCC1)CC(C(=O)O)C1=CC=C(C=C1)SC | C15H20O2S
reactant | triphenylphosphine | 0.76 mmol, 198 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-bromosuccinimide | 0.84 mmol, 150 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2-aminopyridine | 1.60 mmol, 151 mg | NC1=NC=CC=C1 | C5H6N2
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
product | 3-cyclopentyl-2-(4-methylsulfanyl-phenyl)-N-pyridin-2-yl-propionamide | 83 mg, 32% | C1(CCCC1)CC(C(=O)NC1=NC=CC=C1)C1=CC=C(C=C1)SC | C20H24N2OS
